US06057329
3,4-Dihydro-2-dimethylaminomethylene-7-methyl-1(2H) naphthalenone was prepared from 7-methyl-1-tetralone (4.8 g, 30 mmol) and N,N-dimethyl-formamide diethyl acetal (15.4 ml, 90 mmol). The crude product was recrystallised from diethyl ether-hexane to give yellow crystals (4.64 g) m.p. 79-82° MS (ES+) 238 (MNa+, 6%), 216 (MH+, 100%).

reactant | 7-methyl-1-tetralone | 30 mmol, 4.8 g | CC1=CC=C2CCCC(C2=C1)=O | C11H12O
reactant | N,N-dimethyl-formamide diethyl acetal | 90 mmol, 15.4 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3,4-Dihydro-2-dimethylaminomethylene-7-methyl-1(2H) naphthalenone | CN(C)C=C1C(C2=CC(=CC=C2CC1)C)=O | C14H17NO
